US07419997B2
N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-2-methylbenzamide was prepared from 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine and o-toluoyl chloride in a similar manner as described above to give a gray solid (19% yield). 1H-NMR (DMSO-d6): δ 11.01 (s, 1H), 8.70 (d, 1H), 7.59 (m, 1H), 7.47 (d, 1H), 7.33 (m, 2H), 7.26 (m, 2H), 7.17 (dd, 1H), 5.34 (m, 1H), 2.65 (m, 2H), 2.42 (s, 3H), 2.07 (m, 2H), 1.87 (m, 2H); MS m/z 383 (M−1).

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13BrN2
reactant | o-toluoyl chloride | C=1(C(=CC=CC1)C(=O)Cl)C | C8H7ClO
product | N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-2-methylbenzamide | BrC=1C=C2C=3CCCC(C3NC2=CC1)NC(C1=C(C=CC=C1)C)=O | C20H19BrN2O
